US05071863
5, 7-Dimethyl-2-benzoxazolone
A mixture of 2-amino-4, 6-dimethylphenol (6.86 g, 50 mmoles) and urea (6.01 g, 100 mmoles) was heated at 170° C. for 1 hour. After cooling the resulting solid was dissolved in hot ethanol and recrystallized to give 6.05 g of the title compound.

reactant | 2-amino-4, 6-dimethylphenol | 50 mmoles, 6.86 g | NC1=C(C(=CC(=C1)C)C)O | C8H11NO
reactant | urea | 100 mmoles, 6.01 g | NC(=O)N | CH4N2O
solvent | ethanol | C(C)O | C2H6O
product | 5, 7-Dimethyl-2-benzoxazolone | 6.05 g | CC=1C=C(C2=C(NC(O2)=O)C1)C | C9H9NO2
